US04482560
2.5 Grams of 4-methyl-6-(3-chloropropoxy)carbostyril, 1.8 g of sodium iodide were mixed with 50 ml of acetone and the mixture was stirred at 50° C. for 1 hour, then 50 ml of dimethylformamide was added and acetone was removed by distillation under a reduced pressure. To the residue thus obtained was added 1.5 g of triethylamine and 1.6 g of 4-benzylpiperidine and the mixture was heated at 70°-80° C. for 7 hours under stirring condition. The reaction mixture was then concentrated under a reduced pressure to dryness and to the residue thus obtained was added 60 ml of a 5%-sodium hydrogencarbonate aqueous solution and stirred to obtain the insoluble matters. The insoluble matters were collected by filtration, washed with water and then recrystallized from methanol to obtain 3.2 g (yield: 82%) of 4-methyl-6-[3-(4-benzyl-1-piperidyl)propoxy]-carbostyril as in the form of yellowish prism-like crystals. Melting point: 177°-178° C.

reactant | 4-methyl-6-(3-chloropropoxy)carbostyril | CC1=CC(NC2=CC=C(C=C12)OCCCCl)=O | C13H14ClNO2
reactant | sodium iodide | 1.8 g | [I-].[Na+]
reactant | 4-benzylpiperidine | 1.6 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-methyl-6-[3-(4-benzyl-1-piperidyl)propoxy]-carbostyril | 3.2 g, yield: 82% | CC1=CC(NC2=CC=C(C=C12)OCCCN1CCC(CC1)CC1=CC=CC=C1)=O | C25H30N2O2
